US07547698B2
SYNTHESIS OF [4-(2-PROPYL-1H-BENZOIMIDAZOL-5-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE
A mixture of [4-(3,4-diaminophenyl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone (0.500 g, 1.370 mmol) and butyric acid (0.180 g, 2.040 mmol) was heated to reflux in POCl3 for 12 h. The mixture was cooled to room temperature and then concentrated. The black syrup was poured over 10% Na2CO3 solution, then extracted with ethyl acetate, washed with water and brine. The solvent was removed in vacuo and the residue was purified by column chromatography to yield the title compound as a yellow syrup in 52% yield (0.115 g). 1H NMR (300 MHz, CDCl3) δ 8.90 (br., s, 1H), 7.69 (d, J=7.6 Hz, 1H), 7.62-7.42 (m, 2H), 7.36 (d, J=9.2 Hz, 2H), 6.98 (s, 1H), 6.87 (dd, J=2.0, 8.7 Hz, 1H), 4.01-3.91 (m, 2H), 3.33 (t, J=4.8 Hz, 2H), 3.15 (t, J=4.8 Hz, 2H), 3.05-2.95 (m, 2H), 2.79 (t, J=7.4 Hz, 2H), 1.85-1.70 (m, 2H), 0.90 (t, J=7.3 Hz, 3H). 13C NMR (75 MHz, CDCl3) δ 167.5, 155.4, 147.2, 134.5, 134.5, 132.3, 129.3, 127.2, 127.0, 126.8, 126.8, 126.7, 126.7, 126.6, 126.2, 125.4, 121.8, 114.7, 102.5, 102.4, 102.3, 51.4, 51.2, 47.3, 41.9, 31.1, 21.6, 13.8. MS (ES+) m/z 417.1 (M+1).

reactant | [4-(3,4-diaminophenyl)piperazin-1-yl](2-trifluoromethylphenyl)-methanone | 1.370 mmol, 0.500 g | NC=1C=C(C=CC1N)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C18H19F3N4O
reactant | butyric acid | 2.040 mmol, 0.180 g | C(CCC)(=O)O | C4H8O2
solvent | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
product | [4-(2-PROPYL-1H-BENZOIMIDAZOL-5-YL)PIPERAZIN-1-YL](2-TRIFLUOROMETHYLPHENYL)METHANONE | 52% yield | C(CC)C1=NC2=C(N1)C=CC(=C2)N2CCN(CC2)C(=O)C2=C(C=CC=C2)C(F)(F)F | C22H23F3N4O
